Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12].[O:1],5.67283901695
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14],-3.85145484346
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-0.7513044998810001
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-2.36064556132
[H:1][C:2][O:3][C:4]1[C:5]([H:6])([H:7])[C:8]1([H:9])[H:10]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],2.24038926053
[C:1]#[C:2].[C:3]([H:4])([O:5][O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C@:3]([H:4])([O:5][O:6])[C:7]([H:8])([H:9])[H:10],-4.01534012955
[C:8]([H:9])([H:10])([C:11][H:12])[H:16].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:13]([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-4.83227001817
[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.285817653640001
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13],-1.92007750506
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])=[C:10]=[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-1.39517579402
[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([H:3])[C:4][O:5][H:6]>>[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-4.35713966007
[H:4].[O:1]=[C:2]=[C:3][C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10],-3.12975239447
[H:1][C:2]/[C:4]([H:5])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3][C:6][H:7]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-8.12939846377
[H:1].[O:2][O:3][C:4]([C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][O:3][C:4]([C:5]([H:6])[H:7])=[C:8]([H:9])[H:10],-3.63090322176
[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]=[C:3]([H:4])[O:5][H:6]>>[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[H:10],-2.59087752261
[H:1][O:2][C:3]1([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]1([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:12]([C:10](=[C:7]([H:8])[H:9])[H:11])([H:13])[H:14],-2.86223710002
[H:1][C:2]1([H:3])[O:4][C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[O:11]1>>[H:1][C:2]([H:3])[O:11][C:6](=[C:5]=[O:4])[C:7]([H:8])([H:9])[H:10],-0.0702215179698999
[C:6]([H:7])([H:8])=[C:9][O:10][H:11].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-0.2593890741
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:10](\[H:11])[O:12][H:13].[H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13],-4.890462379190001
[H:1][C:2]#[C:3][O:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][O:5],3.27333690776
[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[O:1]=[C:2]=[C:7]([H:8])[C:9]([H:10])[H:11].[O:3]=[C:4]([H:5])[H:6],0.8367032795899999
[H:7].[O:1]=[C:2]=[C:3]([H:4])[C:5](=[O:6])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.4772525186899998
[C:1]#[C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4][C:8]([H:9])([H:10])[H:11].[C:5]([H:6])[H:7],7.893858159730001
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]#[C:3][H:4],1.05150816918
[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]#[C:4][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:5][H:6],3.23489100277
[H:11].[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-1.98984260699
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:13]([H:14])([H:15])[H:16],1.81972094481
[C:5](\[H:6])([O:7][H:8])=[C:9](/[H:10])[O:11][H:12].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[O:11][H:12],1.103302441
[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-2.62007758865
